US04816452
c. Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(2,6-dichlorobenzyloxyimino)acetate
Ethyl 4-bromo-(Z)-2-(2,6-dichlorobenzyloxyimino)-3-oxobutyrate (7.2 g) was dissolved in ethanol (20 ml) and N,N-dimethylaniline (2.33 ml) and thiourea (1.4 g) added with stirring. After 18 h the title compound was filtered off, washed with ethanol and dried (4.9 g), m.p. 171°-2° C., νmax (KBr) 3423, 1722, 1619, 1529, 1284, 1188, 1021, and 995 cm-1, δH [(CD3)2SO]1.22 (3H, t), 4.33 (2H, q), 5.51 (2H, s), 6.96 (1H, s), 7.24 (2H, br s), and 7.54 (3H, m), [Mass spectrum: M+ (373/375)].

reactant | Ethyl 4-bromo-(Z)-2-(2,6-dichlorobenzyloxyimino)-3-oxobutyrate | 7.2 g | BrCC(/C(/C(=O)OCC)=N/OCC1=C(C=CC=C1Cl)Cl)=O | C13H12BrCl2NO4
reactant | N,N-dimethylaniline | 2.33 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | thiourea | 1.4 g | NC(=S)N | CH4N2S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl 2-(2-aminothiazol-4-yl)-(Z)-2-(2,6-dichlorobenzyloxyimino)acetate | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCC1=C(C=CC=C1Cl)Cl | C14H13Cl2N3O3S
